US08304546B2
1-(3-Propoxy-5,6,7,8-tetrahydronaphthalen-2-yl)ethanone (8.88 g, 38.2 mmol) was dissolved in a mixed solvent of chloroform (20 ml) and methanol (80 ml). Hydroxylamine hydrochloride (4.05 g, 58.2 mmol) and pyridine (9.46 ml, 117 mmol) were added to the solution and stirred for 16 hours while heating under reflux. The reaction mixture was cooled to room temperature, and then concentrated to dryness under reduced pressure. 2N hydrochloric acid (30 ml) and water were added to the residue, followed by extraction using dichloromethane. The thus-obtained organic layer was concentrated to dryness under reduced pressure, and the residue was then purified using silica gel column chromatography (n-hexane:ethyl acetate=5:1). The purified product was concentrated to dryness under reduced pressure, giving a pale yellow powder of 1-(3-propoxy-5,6,7,8-tetrahydronaphthalen-2-yl)ethanone oxime (8.87 g, yield: 94%).

reactant | 1-(3-Propoxy-5,6,7,8-tetrahydronaphthalen-2-yl)ethanone | 38.2 mmol, 8.88 g | C(CC)OC=1C(=CC=2CCCCC2C1)C(C)=O | C15H20O2
reactant | Hydroxylamine hydrochloride | 58.2 mmol, 4.05 g | Cl.NO
reactant | pyridine | 117 mmol, 9.46 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 80 ml | CO | CH4O
product | 1-(3-propoxy-5,6,7,8-tetrahydronaphthalen-2-yl)ethanone oxime | 8.87 g, yield: 94% | C(CC)OC=1C(=CC=2CCCCC2C1)C(C)=NO | C15H21NO2
